US06826033B2
A mixture of (2S)-2-amino-3-(4-nitrophenyl)-1-propanol (15.0 g), di-tert-butyl dicarbonate (20.0 g) and tetrahydrofuran (120 ml) was stirred at room temperature for 1.5 hours. The reaction mixture was evaporated in vacuo. The residue was triturated with ether to give tert-butyl N-[(1S)-2-hydroxy-1-(4-nitrobenzyl)ethyl]carbamate (19.82 g) as a white powder.

reactant | (2S)-2-amino-3-(4-nitrophenyl)-1-propanol | 15.0 g | N[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O3
reactant | di-tert-butyl dicarbonate | 20.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | tert-butyl N-[(1S)-2-hydroxy-1-(4-nitrobenzyl)ethyl]carbamate | 19.82 g | OC[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C14H20N2O5
